US04820715
4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-(2-methoxyethoxy)benzamide
A mixature of 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide hydrochloride (2.50 g, 7.76 mmoles), 2-chloro-ethylmethylether (1.47 g, 15.5 mmoles), potassium carbonate (2.14 g, 15.5 mmoles) and sodium bromide (0.80 g, 7.76 mmoles) in 40 ml of dimethylformamide (DMF) was stirred at reflux for four hours. The DMF was removed under vacuum and the residue was redissolved in methylene chloride and washed with water and dilute NaOH. The solvent was evaporated and the product was chromatographed using a gradient elution of methanol-methylene chloride containing 0.25% NH4OH. The appropriate fractions were combined and evaporated to yield 2.34 g (87.6%) of cream-colored solid. Recrystallization of the residue from ethyl acetate gave the title compound as a white solid, mp 108°-110.5°. The NMR spectrum (90 MHz) in CDCl3 gave the following resonances: δ 8.19 (s, 1H); 6.35 (s, 1H); 4.5 (bs, 2H); 4.2 (m, 2H); 3.8 (m, 2H); 3.5 (m, 2H); 3.49 (s, 3H); 2.59 (m, 6H); 1.02 (t, 6H).

reactant | 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide hydrochloride | 7.76 mmoles, 2.50 g | Cl.NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)O
reactant | 2-chloro-ethylmethylether | 15.5 mmoles, 1.47 g | ClCCCOCCCCl | C6H12Cl2O
reactant | potassium carbonate | 15.5 mmoles, 2.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bromide | 7.76 mmoles, 0.80 g | [Br-].[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-(2-methoxyethoxy)benzamide | 2.34 g, 87.6% | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OCCOC | C16H26ClN3O3
